US03950427
(E)-4-(3-chloro-4-cycloheptyl-phenyl)-3-pentene-2-one was prepared analogous to Example 52 from 3'-chloro-4'-cycloheptyl-acetophenone (b.p. 136°-139°C at 0.1 mm Hg; nD23 = 1.5572) and ethyl (E)-3-ethoxy-crotonate with a yield of 51% of theory. B.p. 160°-165°C at 0.1 mm Hg.

reactant | 3'-chloro-4'-cycloheptyl-acetophenone | ClC=1C=C(C=CC1C1CCCCCC1)C(C)=O | C15H19ClO
reactant | ethyl (E)-3-ethoxy-crotonate | C(C)O/C(=C/C(=O)OCC)/C | C8H14O3
product | (E)-4-(3-chloro-4-cycloheptyl-phenyl)-3-pentene-2-one | yield of 51% | ClC=1C=C(C=CC1C1CCCCCC1)/C(=C/C(C)=O)/C | C18H23ClO
